US08309718B2
Step 3. 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-hydroxycyclohexylacetonitrile
To a mixture of 4-(tert-butyl(dimethyl)silyl)oxy-1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)cyclohexylacetonitrile (1.8 g, 0.0042 mol) in acetonitrile (69.74 mL) was added fluorosilicic acid (2.0 M in water, 4.17 mL). The mixture was stirred at room temperature overnight. After evaporation of most of the solvent, the mixture was neutralized with aqueous sodium bicarbonate, extracted with ether. The organic layers were combined, washed with brine, dried over MgSO4, and concentrated to dryness. The residue (a 1:3.5 mixture of cis- and trans-isomers) was used directly in next step (1.20 g, 90.6%). LCMS (M+H) 318.3.

reactant | 4-(tert-butyl(dimethyl)silyl)oxy-1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)cyclohexylacetonitrile | 0.0042 mol, 1.8 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)(N1N=CC(=C1)C1=NC(=NC=C1)Cl)CC#N | C21H30ClN5OSi
reactant | fluorosilicic acid | 2.0 M, 4.17 mL | F[Si-2](F)(F)(F)(F)F.[H+].[H+]
solvent | acetonitrile | 69.74 mL | C(C)#N | C2H3N
product | 1-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-4-hydroxycyclohexylacetonitrile | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CCC(CC1)O)CC#N | C15H16ClN5O
